US08871792B2
(R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic Acid 2,2-Difluoropropyl Ester
(R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid (15.0 mg, 32 μmol), HOBt (12.8 mg, 95 μmol) and EDC (16.8 μL, 95 μmol) were combined in DCM (121 μL, 1.9 mmol) and stirred for 10 minutes. 2,2-Difluoropropanol (24.3 mg, 253 μmol) was added and the resulting mixture was stirred at room temperature until the reaction was complete (≈48 hours). The mixture was evaporated under reduced pressure and the product was purified (reverse phase column) to yield the title compound (13.8 mg, purity 96%) as a TFA salt. MS m/z [M+H]+ calc'd for C25H24ClF3N4O5, 553.14. found 553.1.

reactant | (R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid | 32 μmol, 15.0 mg | C(C)(=O)C=1C=C(NN1)C(=O)NN(CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)C[C@H](C(=O)O)O | C22H20ClFN4O5
reactant | HOBt | 95 μmol, 12.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 95 μmol, 16.8 μL
reactant | DCM | 1.9 mmol, 121 μL | C(Cl)Cl | CH2Cl2
reactant | 2,2-Difluoropropanol | 253 μmol, 24.3 mg | FC(CO)(C)F | C3H6F2O
product | (R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic Acid 2,2-Difluoropropyl Ester | 13.8 mg | FC(COC([C@@H](CN(NC(=O)C=1NN=C(C1)C(C)=O)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O)(C)F | C25H24ClF3N4O5
